US07776884B2
2-Fluoro-5-trifluoromethyl-benzonitrile (2.66 g) was dissolved in n-BuOH (51 ml) prior to the addition of NH2NH2.H2O (1.02 ml). The solution was heated to reflux for 30 min. After cooling to rt, the solution was concentrated and CH2Cl2 was added. The organic layer was washed with H2O, brine, dried, filtered, and concentrated in high vacuum to give 5-trifluoromethyl-1H-indazol-3-ylamine (2.25 g): 1H NMR (DMSO, δppm, 300 mHz) 5.70 (s, br, 2H), 7.40 (dd, 2H), 8.20 (s, 1H), 11.90 (s, br, 1H).

reactant | 2-Fluoro-5-trifluoromethyl-benzonitrile | 2.66 g | FC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3F4N
reactant | NH2NH2.H2O | 1.02 ml | NN.O
solvent | n-BuOH | 51 ml | CCCCO | C4H10O
product | 5-trifluoromethyl-1H-indazol-3-ylamine | 2.25 g | FC(C=1C=C2C(=NNC2=CC1)N)(F)F | C8H6F3N3
